US07411072B2
N-[3-(3-Chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylmethyl)-phenyl]-methanesulfonamide
Dissolve N-[3-(3-chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide (200 mg, 0.49 mmol) in EtOAc (30 mL) and add 5% Pt/C (150 mg). Stir for 18 h under an atmosphere of hydrogen. Add 5% Pt/C (200 mg). Stir for 24 h under an atmosphere of hydrogen. Filter and concentrate to give 140 mg crude product. Purify using reverse-phase UV guided HPLC to give 28 mg viscous tan oil, MS (ES) 410 (M−1). HPLC shows 99% purity.

reactant | N-[3-(3-chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide | 0.49 mmol, 200 mg | ClC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)C)C1 | C23H20ClNO2S
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pt/C | 150 mg | [Pt] | Pt
catalyst | Pt/C | 200 mg | [Pt] | Pt
product | N-[3-(3-Chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylmethyl)-phenyl]-methanesulfonamide | 28 mg | ClC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)CC=3C=C(C=CC3)NS(=O)(=O)C)C1 | C23H22ClNO2S
